datasets/10k_Mayr_OG.csv
SMILES Labelled
"Br[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.[H][C:11]1([H:10])[CH:12]=[CH:13][N:14](C2=CC=C(C)C=C2)[CH:63]=[C:62]1C(N)=O>>Br[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1.[H][C:11]1=[CH:12][CH:13]=[N+:14](C2=CC=C(C)C=C2)[CH:63]=[C:62]1C(N)=O 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"CCCC[P:10](CCCC)CCCC.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>CCCC[P+:10](CCCC)(CCCC)[CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33]([N+](=O)[O-])[C:34]2=[N:35]O[N+:42]([O-])=[C:41]12 10=20;20,21=21,22;22,23=23"
COC[C@@H]1CCC[NH:10]1.C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1>>COC[C@@H]1CCC[NH+:10]1[CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[C:42]([C:43]1=[CH:44][CH:45]=[C:46]([O:49]C)[CH:47]=[CH:48]1)[C:53]1=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]1 10=20
"CC(C)[C:11](C)=[CH2:10].CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](NC1=CC=CC=C1)=[O:25])=[O:32]>>CC[O:33][C:31]([CH:20]([CH2:10][C+:11](C)C(C)C)[C:21](C)=[N:22][N:23]=[C:24](NC1=CC=CC=C1)[O-:25])=[O:32] 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C1C[C:33]2=[C:34](O1)[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]1)=[CH:32]2.C[Sn:63](C)(C)[CH2:62][CH:11]([H:10])[C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1>>C1C[C:33]2=[C:34](O1)[CH:35]=[CH:36][C:31]([CH:20]([H:10])[C:41]1=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]1)=[CH:32]2.C[Sn:63](C)(C)[CH2:62][CH+:11][C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1 10,11=10,20"
"C1=CC=C(/[CH:20]=[CH:21]/[C:22]#[N:23])C=C1.C1=CC=C([N:12]2[CH:11]=[N:10][CH:64]=[CH:63]2)C=C1>>C1=CC=C([N+:12]2=[CH:11][N:10]([CH:20](C3=CC=CC=C3)[CH:21]=[C:22]=[N-:23])[CH:64]=[CH:63]2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].CC(C)(C)[Si:63](C)(C)[O:12][C:11](C)=[CH2:10]>>CC(C)(C)[C:22](=[CH:21][CH:20]([CH2:10][C:11](C)=[O+:12][Si:63](C)(C)C(C)(C)C)[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=C[C:64]2=[C:63](C=C1)[NH:62][C:61](C)=[N:10]2.COC1=CC=[N+](C/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)[C:22](C)=[O:23])C=C1>>COC1=CC=[N+](C[C:21]([CH:20]([N+:10]2=[C:61](C)[NH:62][C:63]3=[C:64]2C=C(C)C=C3)[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)=[C:22](C)[O-:23])C=C1 10=20;20,21=21,22;22,23=23"
"CC1C(C)[O:62][C:11]([H:10])([CH:72]=[CH2:73])[O:12]1.CC[O:33][C:22]([C:21](C)=[CH2:20])=[O:23]>>CC1C(C)[O:62][C:11]([CH:72]=[CH2:73])=[O+:12]1.CC[O:33][C:22](=[C:21](C)[CH2:20][H:10])[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[CH:10]=[C:11](C)C.N#C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>C[CH:10]([C+:11](C)C)[CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]1 10,11=10,20;20,21=21,22;22,23=23"
C1=C[C:31]2=[C:32](C=C1)[CH:33]=[CH:34][C:35]1=[C:36](C=CC=C1)[CH+:20]2.[O-:10][C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:76])[CH:73]=[CH:72]1>>C1=C[C:31]2=[C:32](C=C1)[CH:33]=[CH:34][C:35]1=[C:36](C=CC=C1)[CH:20]2[O:10][C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:76])[CH:73]=[CH:72]1 10=20
"C1C[O:12][CH:11]=[CH:10]1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]2CC[O+:12]=[CH:11]2)[C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC12C3(C)C4(C)C5(C)C1(C)[Zr:11]23451678(C)([CH3:10])C2(C)C1(C)C6(C)C7(C)C28C.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2>>CC12C3(C)C4(C)C5(C)C1(C)[Zr+:11]23451678(C)C2(C)C1(C)C6(C)C7(C)C28C.CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH3:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)[C@H]1CC[N:12]2C3=C(C=CC=C3)[S:62][C:11]2=[N:10]1.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](/C[N+]23CCN(CC2)CC3)[C:22](C)=[O:23])[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[C@@H](C(C)(C)C)CC[N+:12]3=[C:11]2[S:62]C2=C3C=CC=C2)[C:21](C[N+]23CCN(CC2)CC3)=[C:22](C)[O-:23])[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
